US07625921B2
To a CCl4 (600 mL) solution of 2-naphthylamine (10 g) at 49° C. was added NCS (9.51 g, 1.02 eq) in portions. The mixture was stirred at 49° C. for 1.5 h then concentrated to dryness to give 1-chloro-2-naphthylamine (11.94 g, 96%) as a dark solid. MS Found: (M+H)+=178.

reactant | 2-naphthylamine | 10 g | C1=C(C=CC2=CC=CC=C12)N | C10H9N
reactant | NCS | 9.51 g, 1.02 eq | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | CCl4 | 600 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-chloro-2-naphthylamine | 11.94 g, 96% | ClC1=C(C=CC2=CC=CC=C12)N | C10H8ClN
